US08975254B2
c) tert-Butyl (2-(3-(3-chloro-4-cyanophenyl)isoxazol-5-yl)ethyl)carbamate
tert-Butyl but-3-yn-1-ylcarbamate (0.7 g, 4.14 mmol) was dissolved in toluene (20 ml) and trietyhylamine (0.87 ml) was added at RT. (Z)-3-chloro-4-cyano-N-hydroxybenzimidoyl chloride (0.98 g, 4.55 mmol) was added in DMF (2 ml) to reaction mixture. After one hour in RT the reaction mixture was heated to 40° C. for 2 h. The white precipitate was filtered and the filtrate was washed with 1 M HCl, water and brine. Dried over anhydrous Na2SO4, filtered and evaporated. The crude product was purified by Flash chromatography (Heptane-EtOAc 2:1). Product fractions were combined and evaporated to give pure title compound (0.78 g). 1H-NMR (400 MHz; d6-DMSO): δ 1.35 (s, 9H), 2.95 (t, 2H), 3.30 (m, 2H), 7.04 (m, 2H), 8.00 (d, 1H), 8.12 (d, 1H), 8.18 (s, 1H).

reactant | tert-Butyl but-3-yn-1-ylcarbamate | 4.14 mmol, 0.7 g | C(CC#C)NC(OC(C)(C)C)=O | C9H15NO2
reactant | (Z)-3-chloro-4-cyano-N-hydroxybenzimidoyl chloride | 4.55 mmol, 0.98 g | ClC=1C=C(/C(=N/O)/Cl)C=CC1C#N | C8H4Cl2N2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-Butyl (2-(3-(3-chloro-4-cyanophenyl)isoxazol-5-yl)ethyl)carbamate | 0.78 g | ClC=1C=C(C=CC1C#N)C1=NOC(=C1)CCNC(OC(C)(C)C)=O | C17H18ClN3O3
